US06969717B2
Ethyl-[5-isopropyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine
The procedure described above in Example 24 was employed. Thus, when 4-chloro-5-isopropyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrrolo[2,1-f][1,2,4]triazine (86 mg, 0.31 mmol), ethyl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine (50 mg, 0.31 mmol) and diisopropylethylamine (162 μL, 0.93 mmol) in DMF (2.0 mL) were used, the title compound was obtained. LCMS; m/z 403 (M+H)+. Monohydrochloride salt: 1H NMR (400 MHz, DMSO-d6) δ 9.70 (1H, s), 8.20 (1H, s.), 8.02 (1H, s), 7.52 (1H, s), 7.29 (1H, s), 6.38 (1H, br. s.), 4.10 (2H, q, J=6.8 Hz), 3.24(1H, m), 2.30 (3H, s), 1.19 (3H, t, J=6.8 Hz), 0.59 (6H, d, J=7.1 Hz). (1H, m), 2.30 (3H, s), 1.19 (3H, t, J=6.8 Hz), 0.59 (6H, d, J=7.1 Hz).

reactant | 4-chloro-5-isopropyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.31 mmol, 86 mg | ClC1=NC=NN2C1=C(C(=C2)C2=NC(=NO2)C)C(C)C | C12H12ClN5O
reactant | ethyl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine | 0.31 mmol, 50 mg | C(C)NC=1C=C2C(=NC1)NC=C2 | C9H11N3
reactant | diisopropylethylamine | 0.93 mmol, 162 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | Ethyl-[5-isopropyl-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine | C(C)N(C=1C=C2C(=NC1)NC=C2)C2=NC=NN1C2=C(C(=C1)C1=NC(=NO1)C)C(C)C | C21H22N8O
